US08084448B2
5-{2-Hydroxy-4-[2-(1-hydroxycyclohexyl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 1-vinyl-cyclohexanol analogous to Example 44: (M−1)−=353; HPLC retention time=1.35 min (method A).

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 1-vinyl-cyclohexanol | C(=C)C1(CCCCC1)O | C8H14O
product | 5-{2-Hydroxy-4-[2-(1-hydroxycyclohexyl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCC1(CCCCC1)O)N1CC(NS1(=O)=O)=O | C16H22N2O5S
